US07674809B2
22b) 2-pentyl-5-nitro-3H-benzimidazole
Prepared from 4-nitrophenylenediamine in a manner similar to that of Example 4c. Yield: 78%; Rf (9/1 chloroform/methanol): 0.70; 1H-NMR (CDCl3) 10.2 (bs, 1H); 8.4 (d, J=1.5 Hz, 1H); 8.1 (dd, J=8.6 Hz, 1.53 Hz, 1H); 7.5 (d, J=8.6 Hz, 1H); 3.0 (t, 2H); 1.90 (m, 2H); 1.6-1.1 (m, 4H); 0.87 (t, 3H).

reactant | 4-nitrophenylenediamine | [N+](=O)([O-])C1=CC(=C(C=C1)N)N | C6H7N3O2
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 2-pentyl-5-nitro-3H-benzimidazole | Yield: 78% | C(CCCC)C=1NC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C12H15N3O2
